US07592453B2
4-(1H-Imidazol-2-yl)-N-((1R,2S)-2-{[(3aR,4R,9bR)-4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide
To a solution of (1R,2S)-2-{[(3aR,4R,9bR)-4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexaneamine hydrochloride (200 mg, 0.480 mmol) in tetrahydrofuran (5 ml) were added triethylamine (0.199 ml, 1.44 mmol), 4-(1H-imidazol-2-yl)benzoic acid (99.0 mg, 0.529 mmol) and DEPC (0.079 ml, 0.529 mmol) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous MgSO4 and concentrated under reduced pressure. The obtained residue was subjected to column chromatography using silica gel and eluted with ethyl acetate-methanol (1:0-4:1) to give the title compound (150 mg, 61%) as an amorphous form.

reactant | (1R,2S)-2-{[(3aR,4R,9bR)-4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexaneamine hydrochloride | 0.480 mmol, 200 mg | Cl.COC[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)N
reactant | triethylamine | 1.44 mmol, 0.199 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(1H-imidazol-2-yl)benzoic acid | 0.529 mmol, 99.0 mg | N1C(=NC=C1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2
reactant | DEPC | 0.529 mmol, 0.079 ml | CCOC(=O)OC(=O)OCC | C6H10O5
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 4-(1H-Imidazol-2-yl)-N-((1R,2S)-2-{[(3aR,4R,9bR)-4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide | 150 mg, 61% | N1C(=NC=C1)C1=CC=C(C(=O)N[C@H]2[C@H](CCCC2)C(=O)N2CC[C@@H]3[C@@H](NC=4C=CC=CC4[C@@H]32)COC)C=C1 | C30H35N5O3
